US09403807B2
Step E: 1-(2-(4-Chlorophenyl)-1-methoxybutan-2-yl)-1H-indol-4-amine
To the mixture of 1-(2-(4-chlorophenyl)-1-methoxybutan-2-yl)-4-(2,5-dimethyl-1H-pyrrol-1-yl)-1H-indole (70 mg) in ethanol/H2O (3 mL/1 mL) was added NH2OH—HCl (178 mg) and triethylamine (87 mg) and the reaction mixture was refluxed for 18 h in an oil bath, cooled to room temperature, concentrated, and extracted with ethyl acetate (30 mL). The organic layers were combined, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was purified using a silica gel column (20-40% ethyl acetate in hexane) to afford the title compound as a brown solid. LC/MS m/z=329.1 [M+H]+.

reactant | 1-(2-(4-chlorophenyl)-1-methoxybutan-2-yl)-4-(2,5-dimethyl-1H-pyrrol-1-yl)-1H-indole | 70 mg | ClC1=CC=C(C=C1)C(COC)(CC)N1C=CC2=C(C=CC=C12)N1C(=CC=C1C)C | C25H27ClN2O
reactant | NH2OH—HCl | 178 mg | NO.Cl
reactant | triethylamine | 87 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol H2O | 3 mL | C(C)O.O
product | 1-(2-(4-Chlorophenyl)-1-methoxybutan-2-yl)-1H-indol-4-amine | ClC1=CC=C(C=C1)C(COC)(CC)N1C=CC=2C(=CC=CC12)N | C19H21ClN2O
